US09284333B2
To a solution of 6-[(R)-1-(4-fluoro-phenyl)-ethylcarbamoyl]-3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-8-carboxylic acid ethyl ester (9.0 g, 25 mmol) in methanol (38 ml) was added 2 N aqueous sodium hydroxide (38 ml, 76 mmol). The mixture was stirred for 1 h at 60° C., then cooled down to 25° C. acidified with excess 10 M aqueous hydrochloric acid. After extraction (3 times with dichloromethane), the combined organic layers were dried over sodium sulfate and the solvents evaporated to give 7.2 g (85%) 6-[(R)-1-(4-fluoro-phenyl)-ethylcarbamoyl]-3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-8-carboxylic acid as a white solid. LC/MS (method 4): Rt=1.11 min; m/z=333.06 (M+H+).

reactant | 6-[(R)-1-(4-fluoro-phenyl)-ethylcarbamoyl]-3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-8-carboxylic acid ethyl ester | 25 mmol, 9.0 g | C(C)OC(=O)C=1C=C(N2C1COCC2)C(N[C@H](C)C2=CC=C(C=C2)F)=O | C19H21FN2O4
reactant | sodium hydroxide | 76 mmol, 2 N, 38 ml | [OH-].[Na+]
reactant | hydrochloric acid | 10 M | Cl | ClH
solvent | methanol | 38 ml | CO | CH4O
product | 6-[(R)-1-(4-fluoro-phenyl)-ethylcarbamoyl]-3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-8-carboxylic acid | 7.2 g, 85% | FC1=CC=C(C=C1)[C@@H](C)NC(=O)C1=CC(=C2COCCN21)C(=O)O | C17H17FN2O4
